US08134001B2
Preparation of 1-[5-bromo-2-(4-fluoro-benzyloxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene
To a mixture of 5-bromo-2-(4-fluoro-benzyloxy)-benzaldehyde (4.4 g, 14 mmol) in THF (60 mL) at 0° C. was added a solution of lithium bis(trimethylsilyl)amide in THF (1 M, 14 mL, 14 mmol). The mixture was stirred at same temperature for 1 h under argon. Then trimethylsilyl chloride (1.75 mL, 14 mmol) was added dropwise, followed by addition of triethylamine (2.51 mL, 18 mmol) in one portion and a solution of acetyl chloride (1.28 mL, 18 mmol) in diethyl ether (60 mL) dropwise. The cooling bath was removed, and the mixture was stirred at room temperature for 1 h. The mixture was quickly filtered on celite under nitrogen, and filtrate was concentrated under reduced pressure. The residue was dissolved in toluene (14 mL) to give a solution (1 M) of the title compound.

reactant | 5-bromo-2-(4-fluoro-benzyloxy)-benzaldehyde | 14 mmol, 4.4 g | BrC=1C=CC(=C(C=O)C1)OCC1=CC=C(C=C1)F | C14H10BrFO2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | trimethylsilyl chloride | 14 mmol, 1.75 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 18 mmol, 2.51 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 18 mmol, 1.28 mL | C(C)(=O)Cl | C2H3ClO
solvent | THF | 60 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 60 mL | C(C)OCC | C4H10O
solvent | THF | 14 mmol, 1 M, 14 mL | C1CCOC1 | C4H8O
product | 1-[5-bromo-2-(4-fluoro-benzyloxy)phenyl]-3-trimethylsilyoxy-2-aza-1,3-butadiene | BrC=1C=CC(=C(C1)C=NC(=C)O[Si](C)(C)C)OCC1=CC=C(C=C1)F | C19H21BrFNO2Si
